US06586475B1
tert-Butyl 2-aminoethyl(methyl)carbamate
To a solution of tert-butyl(methyl)[2-[(2,2,2-trifluoroacetyl)amino]ethyl]carbamate (1 g) in methanol (10 ml) in an ice bath was added aqueous 10% potassium carbonate (5 ml). After addition, the reaction mixture was warmed to room temperature and stirring was continued for additional 20 hr. The reaction mixture was concentrated and the residue was dissolved in ethyl acetate. The insoluble material was removed by filtration and the filtrate was concentrated to obtain the titled compound (451 mg).

reactant | tert-butyl(methyl)[2-[(2,2,2-trifluoroacetyl)amino]ethyl]carbamate | 1 g | C(C)(C)(C)OC(N(CCNC(C(F)(F)F)=O)C)=O | C10H17F3N2O3
reactant | potassium carbonate | 5 ml | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 ml | CO | CH4O
product | tert-Butyl 2-aminoethyl(methyl)carbamate | 451 mg | NCCN(C(OC(C)(C)C)=O)C | C8H18N2O2
